US04663325
2,4-Dimethoxybenzaldehyde (6.7 g; 40.3 millimoles) and 11.5 g (39.9 millimoles) of bis(4-fluorophenyl)methylpiperazine were melted in an oil bath at 100° C., and 2.0 ml (53.0 millimoles) of formic acid was added dropwise. The mixture was stirred under heat for 30 minutes, and allowed to cool to room temperature. A mixture of 8 ml of conc. hydrochloric acid and 80 ml of ethanol was added, and the precipitated crystals were collected by filtration. Recrystallization of the crystals from ethanol gave 5.1 g (yield 25.0%) of 1-(2,4-dimethoxybenzyl)-4-[bis(4-fluorophenyl)methyl]piperazine dihydrochloride as colorless crystals.

reactant | 2,4-Dimethoxybenzaldehyde | 40.3 millimoles, 6.7 g | COC1=C(C=O)C=CC(=C1)OC | C9H10O3
reactant | bis(4-fluorophenyl)methylpiperazine | 39.9 millimoles, 11.5 g | FC1=CC=C(C=C1)C(C1=CC=C(C=C1)F)N1CCNCC1 | C17H18F2N2
reactant | formic acid | 53.0 millimoles, 2.0 ml | C(=O)O | CH2O2
reactant | hydrochloric acid | 8 ml | Cl | ClH
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 1-(2,4-dimethoxybenzyl)-4-[bis(4-fluorophenyl)methyl]piperazine dihydrochloride | 5.1 g, yield 25.0% | Cl.Cl.COC1=C(CN2CCN(CC2)C(C2=CC=C(C=C2)F)C2=CC=C(C=C2)F)C=CC(=C1)OC | InChI=1S/C26H28F2N2O2.2ClH/c1-31-24-12-7-21(25(17-24)32-2)18-29-13-15-30(16-14-29)26(19-3-8-22(27)9-4-19)20-5-10-23(28)11-6-20;;/h3-12,17,26H,13-16,18H2,1-2H3;2*1H
